US06458984B1
The reaction of the MCR with the boron impurities in the TEOS feedstock produces a chelated organoborane reaction product in the reaction vessel 16. For example, the TEOS feedstock may illustratively contain 550 parts per billion of triethylborate (TEB) or other boron impurity containing from about 2 to about 10 percent elemental boron, based on the molecular weight thereof. The TEB impurity reacts with triethanolamine (TEA) as the MCR, to form triethylamine borate (TEAB) as the organoborate reaction product. Some ethanol is formed as a side-product of the reaction, but ethanol is low boiling (bp=78° C.) and easily separated from the distilling TEOS. The MCR co-reactant desirably is added in stoichiometric excess to ensure maximal reaction of the boron impurity species in the TEOS feedstock. The reaction volume in this illustrative embodiment will then include TEOS, TEA, TEB and TEAB, as well as by-product alcohol.

reactant | boron | [B] | B
reactant | TEOS | CCO[Si](OCC)(OCC)OCC | C8H20O4Si
reactant | triethylborate | C(C)OB(OCC)OCC | C6H15BO3
reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
product | triethylamine borate | B(O)(O)O.C(C)N(CC)CC | InChI=1S/C6H15N.BH3O3/c1-4-7(5-2)6-3;2-1(3)4/h4-6H2,1-3H3;2-4H
